US07754895B2
In still a further embodiment, a process is provided for preparing 5-(7-Fluoro-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-1-methyl-1H-pyrrole-2-carbonitrile including reacting 7-fluoro-1H-indole-2,3-dione and aqueous hydrazine in ethylene glycol to form the 2-oxindole; alkylating the 2-oxindole at the 3-position; brominating the alkylated 2-oxindole; reacting the brominated 2-oxindole with 5-[1,3,6,2]dioxazaborocan-2-yl-1-methyl-1H-pyrrole-2-carbonitrile, sodium carbonate, and PdCl2(PPh3)2; removing residual PdCl2(PPh3)2 or a by-product thereof using N-acetyl-L-cysteine; and isolating 5-(7-Fluoro-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-1-methyl-1H-pyrrole-2-carbonitrile. See, Scheme 6.

reactant | 7-fluoro-1H-indole-2,3-dione | FC=1C=CC=C2C(C(NC12)=O)=O | C8H4FNO2
reactant | hydrazine | NN | H4N2
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 2-oxindole | N1C(CC2=CC=CC=C12)=O | C8H7NO
